US07960409B2
Step 8: 7-(azidomethyl)-4-phenylquinoline-2-carbonitrile
To a solution of 7-formyl-4-phenylquinoline-2-carbonitrile (520 mg, 2.0 mmol) in toluene (12 mL) was added triphenylphosphine (1.05 g, 4.0 mmol), Zn(N3)2.2 pyridine (461 mg, 1.5 mmol) and diisopropyl azodicarboxylate (787 μL, 4.0 mmol). The mixture was stirred at room temperature for 3 h, concentrated and purified on silica gel (eluting with EtOAc/hexanes, 3:7) to give the title compound. MS (+ESI): 286 (M+H)+.

reactant | 7-formyl-4-phenylquinoline-2-carbonitrile | 2.0 mmol, 520 mg | C(=O)C1=CC=C2C(=CC(=NC2=C1)C#N)C1=CC=CC=C1 | C17H10N2O
reactant | triphenylphosphine | 4.0 mmol, 1.05 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | pyridine | 1.5 mmol, 461 mg | N1=CC=CC=C1 | C5H5N
reactant | diisopropyl azodicarboxylate | 4.0 mmol, 787 μL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Zn(N3)2 | [Zn](N=[N+]=[N-])N=[N+]=[N-]
product | 7-(azidomethyl)-4-phenylquinoline-2-carbonitrile | N(=[N+]=[N-])CC1=CC=C2C(=CC(=NC2=C1)C#N)C1=CC=CC=C1 | C17H11N5
